US06245773B1
6-(3,4-Difluorophenyl)-1-(3-imidazol-1-yl-propylcarbamoyl)-4-methyl-2-oxo-1,2,3,6-tetrahydro-pyrimidine-5-carboxylic acid methyl ester
A solution of 6-(3,4-difluorophenyl)-4-methyl-5-methoxycarbonyl-1-(4-nitrophenoxy)carbonyl-2-oxo-1,2,3,6-tetrahydro-pyrimidine (100 mg, 0.22 mmol) and 1-(3-aminopropyl)imidazole (40 ml, 0.34 mmol) in CH2Cl2 (10 ml) was stirred at room temperature for 3 hours. The solvent was removed in vacuum. The residue was separated on preparative TLC (CHCl3/MeOH=100/15) to get the title compound (80 mg, 84% yield) as a white solid. Hydrochloride of title compound was made with HCl in ether. Calcd for C20H21N5O4F2+0.3 H2O: C, 54.74%; H, 4.99%; N, 15.89%. Found: C, 54.92%; H, 4.65%; N, 15.77%. M.P. of the salt: 221-224° C.

reactant | 6-(3,4-difluorophenyl)-4-methyl-5-methoxycarbonyl-1-(4-nitrophenoxy)carbonyl-2-oxo-1,2,3,6-tetrahydro-pyrimidine | 0.22 mmol, 100 mg | FC=1C=C(C=CC1F)C1C(=C(NC(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O)C)C(=O)OC | C20H15F2N3O7
reactant | 1-(3-aminopropyl)imidazole | 0.34 mmol, 40 ml | NCCCN1C=NC=C1 | C6H11N3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-(3,4-Difluorophenyl)-1-(3-imidazol-1-yl-propylcarbamoyl)-4-methyl-2-oxo-1,2,3,6-tetrahydro-pyrimidine-5-carboxylic acid methyl ester | 80 mg, 84% yield | COC(=O)C1=C(NC(N(C1C1=CC(=C(C=C1)F)F)C(NCCCN1C=NC=C1)=O)=O)C | C20H21F2N5O4
